US20010047031A1
(RS)-4-{1-[4-(2-Methoxymethoxy-phenyl)-butyl]-pyrrolidine-3-sulfonyl}-phenol (34 mg, 0.08 mmol) in iPrOH (1 ml) was treated with HCl/Et2O (1 ml). After 45 hours stirring at room temperature, the reaction mixture was quenched with saturated NaHCO3. The aqueous phase was extracted with CH2Cl2. The combined organic phases were dried over Na2SO4, filtered and the solvent was evaporated. The residue was chromatographed over silica gel (CH2Cl2-MeOH, 19:1) to provide (RS)-4-{1-[4-(2-hydroxy-phenyl)-butyl]-pyrrolidine-3-sulfonyl}-phenol (17 mg, 56%) as a beige foam, MS: m/e=376.4 (M+H+).

reactant | (RS)-4-{1-[4-(2-Methoxymethoxy-phenyl)-butyl]-pyrrolidine-3-sulfonyl}-phenol | 0.08 mmol, 34 mg | COCOC1=C(C=CC=C1)CCCCN1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O | C22H29NO5S
reactant | HCl Et2O | 1 ml | Cl.CCOCC
solvent | iPrOH | 1 ml | CC(C)O | C3H8O
product | (RS)-4-{1-[4-(2-hydroxy-phenyl)-butyl]-pyrrolidine-3-sulfonyl}-phenol | 17 mg, 56% | OC1=C(C=CC=C1)CCCCN1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O | C20H25NO4S
